US07012075B2
To 4-methoxybenzyl N-(4-bromo-1-methyl-1H-pyrazol-3-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate (1.72 g, 2.89 mmol) in dry THF (50 mL) was added activated zinc powder (1.89 g, 28.9 mmol) followed by an aqueous solution of KH2PO4 (1.0 M, 5.8 mL, 11.6 mmol) and the reaction mixture was stirred for ½ hour. Additional aliquots of activated zinc powder (950 mg, 14.45 mmol) and aqueous solution of KH2PO4 (1.0 M, 2.9 mL, 2.9 mmol) were added and the reaction mixture stirred for 1½ hour. The zinc powder was filtered off, rinsed with Et2O and water and the product extracted with ether (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (EtOAc/Hex, 25/75, then 3/7) to afford 4-methoxybenzyl N-(4-bromo-1-methyl-1H-pyrazol-3-yl)leucinate.

reactant | 4-methoxybenzyl N-(4-bromo-1-methyl-1H-pyrazol-3-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate | 2.89 mmol, 1.72 g | BrC=1C(=NN(C1)C)N([C@@H](CC(C)C)C(=O)OCC1=CC=C(C=C1)OC)C(=O)OCC(Cl)(Cl)Cl | C21H25BrCl3N3O5
reactant | KH2PO4 | 11.6 mmol, 1.0 M, 5.8 mL | OP(=O)(O)[O-].[K+]
reactant | KH2PO4 | 2.9 mmol, 1.0 M, 2.9 mL | OP(=O)(O)[O-].[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | zinc | 28.9 mmol, 1.89 g | [Zn] | Zn
catalyst | zinc | 14.45 mmol, 950 mg | [Zn] | Zn
product | 4-methoxybenzyl N-(4-bromo-1-methyl-1H-pyrazol-3-yl)leucinate | BrC=1C(=NN(C1)C)N[C@@H](CC(C)C)C(=O)OCC1=CC=C(C=C1)OC | C18H24BrN3O3
